US07504382B2
4-Amino-6-Fluoro-5-Hydroxy-Hexanoic Acid Methylamide
To a solution of 6-fluoro-5-hydroxy-4-nitro-hexanoic acid methylamide (0.325 g, 1.56 mmol) in MeOH (12 mL) was added Raney Ni (about 0.12 g), and the mixture was shaken under H2 (40-45 psi) at room temperature for 18 h. The black mixture was filtered through celite, and the celite was washed with additional MeOH (100 mL). The yellow solution was concentrated to give yellow oil (0.250 g, 90%), which was used without further purification. 1H NMR (CDCl3): 5.68 (br s, NH, 1H), 4.64-4.38 (m, 2H), 3.64-3.49 (m, 1H), 2.90-2.85 (m, 1H), 2.81 (d, J=5.10 Hz, 3H), 2.40-2.29 (m, 2H), 1.97-1.88 (m, 2H); Mass Spectra: ESI: calculated: 178.11. found: MH+ 179.18.

reactant | 6-fluoro-5-hydroxy-4-nitro-hexanoic acid methylamide | 1.56 mmol, 0.325 g | CNC(CCC(C(CF)O)[N+](=O)[O-])=O | C7H13FN2O4
solvent | MeOH | 12 mL | CO | CH4O
catalyst | Ni | about 0.12 g | [Ni] | Ni
product | 4-Amino-6-Fluoro-5-Hydroxy-Hexanoic Acid Methylamide | 0.250 g, 90% | CNC(CCC(C(CF)O)N)=O | C7H15FN2O2
